US08957070B2
Ethyl 7-({3,5-bis[(2-fluorobenzyl)oxy]benzoyl}amino)-1H-indole-2-carboxylate
A mixture of ethyl 7-amino-1H-indole-2-carboxylate (210 mg), 3,5-bis[(2-fluorobenzyl)oxy]benzoic acid (380 mg), ethyldiisopropylamine (0.47 mL), 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (510 mg) and N,N-dimethylformamide (8 mL) was stirred at 60° C. for 18 hr. The reaction mixture was diluted with ethyl acetate, washed with aqueous citric acid solution, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were washed with ethyl acetate-hexane and dissolved in ethyl acetate (50 mL). Activated carbon was added, and the mixture was stirred at 60° C. for 30 min. The activated carbon was filtered off, and the filtrate was concentrated under reduced pressure. The obtained crystals were washed with ethyl acetate-hexane to give the title compound (284 mg, yield 50%) as colorless crystals. melting point 157-158° C.

reactant | ethyl 7-amino-1H-indole-2-carboxylate | 210 mg | NC=1C=CC=C2C=C(NC12)C(=O)OCC | C11H12N2O2
reactant | 3,5-bis[(2-fluorobenzyl)oxy]benzoic acid | 380 mg | FC1=C(COC=2C=C(C(=O)O)C=C(C2)OCC2=C(C=CC=C2)F)C=CC=C1 | C21H16F2O4
reactant | ethyldiisopropylamine | 0.47 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 510 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | Ethyl 7-({3,5-bis[(2-fluorobenzyl)oxy]benzoyl}amino)-1H-indole-2-carboxylate | 284 mg, yield 50% | FC1=C(COC=2C=C(C(=O)NC=3C=CC=C4C=C(NC34)C(=O)OCC)C=C(C2)OCC2=C(C=CC=C2)F)C=CC=C1 | C32H26F2N2O5
